US07700638B2
7-(3-Aminophenyl)-1-phenyl-5-trifluoromethylbenzimidazole
A mixture of 7-iodo-1-phenyl-5-trifluoromethylbenzimidazole (3.2 g, 8.2 mmol), 3-aminophenyl boronic acid (1.68 g, 12.3 mmol), sodium carbonate (5.68 g, 41 mmol), 1,3-propanediol (2.94 ml, 41 mmol) and bis(triphenylphosphin)palladium dichloride (200 mg, 0.28 mmol) in a mixture of water (13 ml) and dimethoxyethane (26 ml) was stirred at reflux overnight The cooled reaction mixture was partitioned between ethyl acetate and water, and the organic extract was purified by column chromatography on silica gel eluting with a mixture of dichloromethane and methanol (99:1, v/v). The product was isolated by removal of solvent from appropriate eluate fractions followed by crystallisation of the residue from 2-propanol (50 ml). Yield: 2.7 g (93%), m/z, 354.1 (M+H)+.

reactant | 7-iodo-1-phenyl-5-trifluoromethylbenzimidazole | 8.2 mmol, 3.2 g | IC1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C14H8F3IN2
reactant | 3-aminophenyl boronic acid | 12.3 mmol, 1.68 g | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
reactant | sodium carbonate | 41 mmol, 5.68 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,3-propanediol | 41 mmol, 2.94 ml | C(CCO)O | C3H8O2
solvent | water | 13 ml | O | H2O
solvent | dimethoxyethane | 26 ml | C(OC)COC | C4H10O2
catalyst | bis(triphenylphosphin)palladium dichloride | 0.28 mmol, 200 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 7-(3-Aminophenyl)-1-phenyl-5-trifluoromethylbenzimidazole | NC=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C20H14F3N3
